US07713993B2
Synthesis of methyl methoxy-(4-methoxyphenyl)acetate
A 28% solution of sodium methoxide in methanol (12.8 g) and iodobenzene diacetate (7.15 g) were added to a solution of methyl 4-methoxyphenylacetate (4.0 g) in methanol (60 mL), and the reaction solution was stirred at room temperature for five days. 1 N hydrochloric acid (67 ml) was added dropwise to the reaction solution under ice-cooling, and methanol was evaporated from the reaction solution under reduced pressure. Ethyl acetate was added to the remaining aqueous layer, and the organic layer was separated. The resulting organic layer was sequentially washed with a saturated sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluting solvent: heptane-ethyl acetate system) to obtain 725 mg of the title compound. The property values of the compound are as follows.

reactant | sodium methoxide | C[O-].[Na+]
reactant | iodobenzene diacetate | 7.15 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | methyl 4-methoxyphenylacetate | 4.0 g | COC1=CC=C(C=C1)CC(=O)OC | C10H12O3
reactant | hydrochloric acid | 1 N, 67 ml | Cl | ClH
solvent | methanol | 12.8 g | CO | CH4O
solvent | methanol | 60 mL | CO | CH4O
product | methyl methoxy-(4-methoxyphenyl)acetate | 725 mg | COC(C(=O)OC)C1=CC=C(C=C1)OC | C11H14O4
